US07902367B2
Step 1c) Methyl 2-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]piperidin-1-yl]benzoate
N-(Piperidin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (105 mg, 0.300 mmol) and methyl 2-fluorobenzoate (0.0382 mL, 0.300 mmol) were added to dimethylsulfoxide (5 mL). To this mixture, potassium carbonate (82.9 mg, 0.600 mmol) was added and the mixture was stirred for 6 hours at 130° C. Subsequently, water was added and the mixture was extracted with ethyl acetate. The extract was washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=10:1->2:1) gave 29.5 mg (20%) of the desired compound as a colorless oil.

reactant | N-(Piperidin-3-yl methyl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.300 mmol, 105 mg | N1CC(CCC1)CNC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C17H20ClN3OS
reactant | methyl 2-fluorobenzoate | 0.300 mmol, 0.0382 mL | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
reactant | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
reactant | potassium carbonate | 0.600 mmol, 82.9 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Methyl 2-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylaminomethyl]piperidin-1-yl]benzoate | 29.5 mg, 20% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NCC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C25H26ClN3O3S
